US07135475B2
A mixture of 4-acetylamino-2-methyl-thiophene-3-carboxylic acid (45 mg, 0.17 mmol) in dichloromethane (3 mL) at 25° C. was treated with triphenylphosphine (71 mg, 0.22 mmol). This mixture was cooled to 0° C. and then was treated with N-chlorosuccinimide (36 mg, 0.22 mmol). This mixture was stirred at 0° C. for 15 min and then was warmed to 25° C. for 15 min. At this time, the reaction was treated with 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione (75 mg, 0.17 mmol). This solution was then cooled to 0° C. and was treated with triethylamine (38 μL, 0.22 mmol). The reaction was warmed to 25° C. and was stirred at 25° C. for 18 h. At this time, the reaction was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×50 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting residue was purified by HPLC (15–60% acetonitrile/water (0.075% trifluoroacetic acid in both solvents) over 40 min). Fractions with the desired product were combined and concentrated in vacuo. The resulting residue was diluted with dichloromethane (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×25 mL). The aqueous layer was re-extracted with dichloromethane (1×50 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was dried in vacuo for 24 h to afford 4-acetylamino-2-methyl-thiophene-3-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (27.8 mg, 26.1%): EI-HRMS m/e calcd for C32H31N6O4SF (M+Na)+ 637.2004, found 637.2018.

reactant | 4-acetylamino-2-methyl-thiophene-3-carboxylic acid | 0.17 mmol, 45 mg | C(C)(=O)NC=1C(=C(SC1)C)C(=O)O | C8H9NO3S
reactant | triphenylphosphine | 0.22 mmol, 71 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.22 mmol, 36 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.17 mmol, 75 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
reactant | triethylamine | 0.22 mmol, 38 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-acetylamino-2-methyl-thiophene-3-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 27.8 mg, 26.1% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C1=C(SC=C1NC(C)=O)C)C)=O)CC1=C(C=CC=C1)F)=O | C32H31FN6O4S
